US07067517B2
3,4-Dihydro-2H-quinoline-1-carboxylic acid 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenyl ester
The title compound was prepared from 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenol and 3-(3,4-dihydro-2H-quinoline-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide. The crude product was subjected to flash chromatography (Quad flash 12, dichlormethane) (43%, oil).

reactant | 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenol | C(#N)C1=NC=C(C=C1OC1=CC=C(C=C1)O)C(F)(F)F | C13H7F3N2O2
reactant | 3-(3,4-dihydro-2H-quinoline-1-carbonyl)-1-methyl-3H-imidazol-1-ium iodide | [I-].N1(CCCC2=CC=CC=C12)C(=O)N1C=[N+](C=C1)C
solvent | dichlormethane | ClCCl | CH2Cl2
product | 3,4-Dihydro-2H-quinoline-1-carboxylic acid 4-(2-cyano-5-trifluoromethyl-pyridin-3-yloxy)-phenyl ester | C(#N)C1=NC=C(C=C1OC1=CC=C(C=C1)OC(=O)N1CCCC2=CC=CC=C12)C(F)(F)F | C23H16F3N3O3
